US08557805B2
5-{[6-(Methoxymethyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxylic acid
To a solution of ethyl 5-{[6-(methoxymethyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxylate (5.8 g) in ethanol (100 mL) and tetrahydrofuran (100 mL) was added 1N aqueous sodium hydroxide solution (27 mL), and the mixture was stirred at room temperature for 15 hr. The reaction mixture was concentrated, 1N hydrochloric acid (27 mL) was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was recrystallized from ethyl acetate-diethyl ether to give the title compound (3.2 g, yield 59%) as yellow crystals.

reactant | ethyl 5-{[6-(methoxymethyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxylate | 5.8 g | COCC1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C(=O)OCC | C23H26N2O6
reactant | sodium hydroxide | 1N, 27 mL | [OH-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 5-{[6-(Methoxymethyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxylic acid | 3.2 g, yield 59% | COCC1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C(=O)O | C21H22N2O6
